US07494989B2
4) Synthesis of 6-(2-chloroethoxy) methyl-4-(3-chlorophenyl)-5-(3,3-diphenylpropylcarbamoyl)-2-methyl-1,4-dihydropyridine-3-carboxylic acid (2-cyanoethyl) ester
250 mg (0.560 mmol) of 2-(2-chloroethoxy) methyl-4-(3-chlorophenyl)-6-methyl-1,4-dihydropyridine-3,5-dicarboxylic acid 5-(2-cyanoethyl) ester, 110 mg (0.570 mmol) of WSC hydrochloride and 120 mg (0.570 mmol) of 3,3-diphenylpropylamine were stirred at room temperature for 15 hours in 4 ml of dichloromethane. After evaporating dichloromethane under reduced pressure, 0.1 N hydrochloric acid was added and the reaction mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by the silica gel chromatography (hexane/ethyl acetate=1/1) to obtain the title compound.

reactant | 2-(2-chloroethoxy) methyl-4-(3-chlorophenyl)-6-methyl-1,4-dihydropyridine-3,5-dicarboxylic acid 5-(2-cyanoethyl) ester | 0.560 mmol, 250 mg | C(#N)CCOC(=O)C=1C(C(=C(NC1C)COCCCl)C(=O)O)C1=CC(=CC=C1)Cl | C20H20Cl2N2O5
reactant | WSC hydrochloride | 0.570 mmol, 110 mg | CCN=C=NCCCN(C)C.Cl
reactant | 3,3-diphenylpropylamine | 0.570 mmol, 120 mg | C1(=CC=CC=C1)C(CCN)C1=CC=CC=C1 | C15H17N
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | 6-(2-chloroethoxy) methyl-4-(3-chlorophenyl)-5-(3,3-diphenylpropylcarbamoyl)-2-methyl-1,4-dihydropyridine-3-carboxylic acid (2-cyanoethyl) ester | C(#N)CCOC(=O)C1=C(NC(=C(C1C1=CC(=CC=C1)Cl)C(NCCC(C1=CC=CC=C1)C1=CC=CC=C1)=O)COCCCl)C | C35H35Cl2N3O4
